US07659409B2
A 200 ml capacity flask was charged with 5.00 g of (3S)-3-hydroxy-N-methyl-3-(2-thienyl)propionamide (optical purity >99.5% ee) and 26 ml of toluene. A 18.3 g portion of 75% by weight toluene solution of sodium bis(2-methoxyethoxy)aluminum hydride was adjusted to 50% by weight by diluting with toluene and added dropwise to the reaction solution at 50° C. spending 10 minutes and stirred for 2 hours. The reaction solution was cooled down to room temperature and mixed with 30 ml of 11% sodium hydroxide aqueous solution, and then the organic layer and water layer were separated. The water layer was extracted twice with 10 ml of toluene, the organic layers were combined, and then 404 mg of L-(+)-tartaric acid and 10 ml of saturated brine were added thereto and stirred for 20 minutes. The mixed solution was separated between layers and then the organic layer was concentrated to obtain 4.27 g of a brown oily substance. When the amount of aluminum contained in this oily substance was measured by the ICP-AES determination method, it was 5 ppm or less. This oily substance was dissolved in 30 ml of toluene, mixed with 0.3 g of activated carbon and stirred for 30 minutes, and then the activated carbon was removed by filtration. The solution was concentrated, mixed with 7 ml of toluene and stirred at room temperature, and then the thus formed pale yellow crystals were collected by filtration, washed with 4 ml of toluene and dried under a reduced pressure to obtain 1.88 g of (1S)-3-methylamino-1-(2-thienyl)-1-propanol (yield 41%).

reactant | (3S)-3-hydroxy-N-methyl-3-(2-thienyl)propionamide | 5.00 g | O[C@@H](CC(=O)NC)C=1SC=CC1 | C8H11NO2S
reactant | sodium bis(2-methoxyethoxy)aluminum hydride | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
reactant | sodium hydroxide | 30 ml | [OH-].[Na+]
reactant | aluminum | [Al] | Al
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 26 ml | C1(=CC=CC=C1)C | C7H8
product | (1S)-3-methylamino-1-(2-thienyl)-1-propanol | 1.88 g, yield 41% | CNCC[C@H](O)C=1SC=CC1 | C8H13NOS
